US07605225B2
Preparation of 4,4′-dibromo-2,2′-dinitrobiphenyl 15
To a stirring solution of 2,5-dibromonitrobenzene (24.0 g, 85.4 mmol) in DMF (110 mL) was added copper powder (12.0 g, 188.9 mmol), and the reaction mixture was heated at 125° C. After 3 h, the mixture was allowed to cool to room temperature. After most of the DMF was evaporated under high vacuum at 60° C., the residue was dissolved in benzene (400 mL) and the insoluble inorganic salts and excess copper were removed by filtration through Celite®. The filtrate was washed with water and 10% NaHCO3 and evaporated to dryness to yield the crude product as yellow crystals (15.6 g, 91%). The crude product was next recrystallized from isopropanol to yield 11.0 g of pure product. The mother liquid was evaporated to one-fourth of its volume and an additional 3.9 g of pure product was recovered, giving a total yield of 14.9 g (87%). 1H NMR (CDCl3): δ 7.17 (2H, d, J=8.0), 7.84 (2H, dd, J=8.0, 2.0), 8.39 (2H, d, J=2.0) ppm; 13C NMR (CDCl3): δ 123.0, 128.2, 131.8, 132.0, 136.4, 147.5 ppm; m.p. 148° C.

reactant | 2,5-dibromonitrobenzene | 85.4 mmol, 24.0 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
catalyst | copper | 188.9 mmol, 12.0 g | [Cu] | Cu
product | 4,4′-dibromo-2,2′-dinitrobiphenyl | 11.0 g | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)Br)[N+](=O)[O-])[N+](=O)[O-] | C12H6Br2N2O4
